US06319920B1
A solution of methanesulfonyl chloride (28 ml, 0.36 mole) in dichloromethane (50 ml) was added dropwise to a solution of piperidine-4-carboxylic acid ethyl ester (50 grams, 0.32 mole) and triethylamine (53 ml, 0.38 mole) in dichloromethane (350 ml) at 0° C. The reaction mixture was stirred at 0-5° C. for 3 hours. The solution was washed with 2×100 ml water, dried (anhydrous magnesium sulfate) and concentrated under reduced pressure. The solid residue was triturated with 100 ml ethyl ether, collected by filtration and dried to give 1-methanesulfonylpiperidine-4-carboxylic acid ethyl ester (68 grams, 90%), m.p. 91-92° C.

reactant | methanesulfonyl chloride | 0.36 mole, 28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | piperidine-4-carboxylic acid ethyl ester | 0.32 mole, 50 grams | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | triethylamine | 0.38 mole, 53 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 1-methanesulfonylpiperidine-4-carboxylic acid ethyl ester | 68 grams, 90% | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C | C9H17NO4S
